US07030124B2
A solution of bis(dibenzylidineacetone)palladium (1.438 g, 2.5 mmol) and 1,4-bis(diphenylphosphino)butane (1.066 g, 2.5 mmol) in tetrahydrofuran (20 mL) was stirred under nitrogen at room temperature for 15 min, then added via syringe to a stirred solution under nitrogen of 4-((alpha-S)-alpha-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)benzyl)-N,N-diethylbenzamide (20.98 g, 50 mmol) and thiosalicylic acid (9.25 g, 60 mmol) in anhydrous tetrahydrofuran (100 mL). The reaction mixture was stirred under nitrogen for 2 h at room temperature, then evaporated to dryness, the residue dissolved ethyl acetate (120 mL) and diluted with ether (300 mL). The solution was washed with dilute sodium carbonate solution (saturated:H2O, 1:3, 3×200 mL). The organic solution was diluted with pentane (800 mL) and extracted with 3M-hydrochloric acid (5×40 mL), followed by M-hydrochloric acid (3×50 mL, alternating with water (3×50 mL)). The combined aqueous extracts were filtered to remove a small amount of suspended solid and the pH adjusted to 12 with 5-M NaOH. The resulting oily suspension was extracted with methylene chloride (3×150 mL), the combined organic extracts dried over anhydrous sodium sulfate and evaporated to dryness to yield 4-((alpha-S)-alpha-((2S,5R)-2,5-dimethyl-1-piperazinyl)benzyl)-N,N-diethylbenzamide as a very pale yellow solid (18.07 g, 97.8%). The product showed a single spot on thin layer chromatography (silica gel, EM60F264, 4% NH4OH/10% EtOH in ethyl acetate, Rf=0.25). and was used without further purification. Calc. for C24H33N3O 0.2 H2O: C, 75.24; H, 8.79; N, 10.97. Found C, 75.24; H, 8.87; N, 10.86%.

reactant | 1,4-bis(diphenylphosphino)butane | 2.5 mmol, 1.066 g | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
reactant | 4-((alpha-S)-alpha-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)benzyl)-N,N-diethylbenzamide | 50 mmol, 20.98 g | C(C=C)N1C[C@@H](N(C[C@H]1C)[C@@H](C1=CC=CC=C1)C1=CC=C(C(=O)N(CC)CC)C=C1)C | C27H37N3O
reactant | thiosalicylic acid | 60 mmol, 9.25 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 4-((alpha-S)-alpha-((2S,5R)-2,5-dimethyl-1-piperazinyl)benzyl)-N,N-diethylbenzamide | C[C@@H]1N(C[C@H](NC1)C)[C@@H](C1=CC=CC=C1)C1=CC=C(C(=O)N(CC)CC)C=C1 | C24H33N3O
